US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (0.5 g) is alkylated using 4-(3-chloro-propyl)-morpholine hydrocloride (0.57 g; 2.85 mmol), Cs2CO3 (1.55 g; 4.75 mmol) and a catalytic amount of nBU4NI at 70° C. for 4 days. After aqueous work-up the crude material is de-acetylated in hydrochloric acid (6 N, 20 ml) at 80° C. in 4 h. After aqueous work-up 5-amino-3,3-dimethyl-1-(3-morpholin-4-yl-propyl)-6-nitro-1,3-dihydro-indol-2-one (0.67 g) is obtained.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 0.5 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 4-(3-chloro-propyl)-morpholine hydrocloride | 2.85 mmol, 0.57 g | Cl.ClCCCN1CCOCC1
reactant | Cs2CO3 | 4.75 mmol, 1.55 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | hydrochloric acid | 6 N, 20 ml | Cl | ClH
product | 5-amino-3,3-dimethyl-1-(3-morpholin-4-yl-propyl)-6-nitro-1,3-dihydro-indol-2-one | 0.67 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CCCN1CCOCC1)=O)(C)C | C17H24N4O4
